US05288749
4-Amino-3-nitrophenylacetic acid (0.97 g) and the product from Example 15 (1.0 g) were treated by the procedure described in Example 19. The intermediate product was hydrogenated using a palladium catalyst in ethanol to yield the intermediate dianiline. Reluxing of this intermediate with formic acid (1.2 equivalents) in 10% aqueous hydrochloric acid for 1 hour, followed by isolation and conversion to the bis-methanesulfonate salt yielded 0.61 g of the desired product as a white solid. m.p. 162°-164° C. 1H NMR (CDCl3, 300 MHz) of the free base δ1.6-1.8 (m, 3H), 1.94 (m, 1H), 2.39 (s, 3H), 2.4-3.0 (m, 9H), 3.80 (s, 3H), 6.67 (d, 1H), 6.81 (d, 1H), 7.08 (t, 1H), 7.13 (dd, 1H), 7.47 (bs, 1H), 7.59 (bs, 1H), 8.01 (s, 1H), 9.5 (bs, 1H). Anal calcd for C24H35N3O7S2 : C, 53.30; H, 6.30; N, 7.80. Found: C, 52.93; H, 6.60; N, 7.62.

reactant | 4-Amino-3-nitrophenylacetic acid | 0.97 g | NC1=C(C=C(C=C1)CC(=O)O)[N+](=O)[O-] | C8H8N2O4
reactant | ethanol | C(C)O | C2H6O
catalyst | palladium | [Pd] | Pd
product | dianiline | C1=CC=C(C(=C1)N)NC(=O)C2=CC=C(C=C2)N | C13H13N3O
